US06436925B1
e) Ethyl 3(2-naphthylsulfonamido)benzoate
34.3 g (0.15 mol) of 2-naphthalenesulfonyl chloride, dissolved in 250 ml of tetrahydrofuran, were added dropwise to 25 g (0.15 mol) of ethyl 3-aminobenzoate and 63 ml (0.45 mol) of triethylamine in 400 ml of tetrahydrofuran at 0° C. The mixture was then heated to reflux for 1 h. The organic solvent was removed in vacuo, and the residue was partitioned between ethyl acetate and water. The ethyl acetate phase was dried and concentrated in vacuo. 55 g (100%) of the product were obtained.

reactant | 2-naphthalenesulfonyl chloride | 0.15 mol, 34.3 g | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
reactant | ethyl 3-aminobenzoate | 0.15 mol, 25 g | NC=1C=C(C(=O)OCC)C=CC1 | C9H11NO2
reactant | triethylamine | 0.45 mol, 63 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
product | Ethyl 3(2-naphthylsulfonamido)benzoate | 55 g, 100% | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)NC=1C=C(C(=O)OCC)C=CC1 | C19H17NO4S
